* SpiceNetList
* 
* Exported from blinker.sch at 30/11/2021 14:31
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
V_V2 IN N_1 PULSE (4V 1V 1s 100ms) 
R_R3 OUT REF 8.3k 
V_V1 +9V 0 DC 9V 
R_R1 OUT N_4 330 
X_U$1 REF IN +9V 0 OUT LM358 
R_R5 N_1 OUT 10k 
R_R2 0 REF 8.3k 
D_D1 N_4 0 DMOD 
C_C1 N_1 0 100uF 
R_R4 REF +9V 15k 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* model file: /home/david/EAGLE/spice/LM358.mdl
* SPICE modeli elementov za laboratorijske vaje 
.MODEL BC546B NPN (IS=2.39E-14 NF=1.008 ISE=3.545E-15 NE=1.541 BF=294.3
+ IKF=0.1357 VAF=63.2 NR=1.004 ISC=6.272E-14 NC=1.243 BR=7.946 IKR=0.1144
+ VAR=25.9 RB=1 IRB=1E-06 RBM=1 RE=0.4683 RC=0.85 XTB=0 EG=1.11 XTI=3 CJE=1.358E-11
+ VJE=0.65 MJE=0.3279 TF=4.391E-10 XTF=120 VTF=2.643 ITF=0.7495 PTF=0
+ CJC=3.728E-12 VJC=0.3997 MJC=0.2955 XCJC=0.6193 TR=1E-32 CJS=0 VJS=0.75
+ MJS=0.333 FC=0.9579 ) 
**********
*SRC=2N3507;QN3507;BJTs NPN;Switching;50V 3A
*PINOUT TO-39 3 2 1
.MODEL QN3507 NPN (IS=148F NF=1.195 BF=195 VAF=127 IKF=1.8
+ ISE=108P NE=2 BR=4 NR=1 VAR=20 IKR=2.7 RE=80.5M RB=.208
+ RC=102.8M XTB=1.5 CJE=510P CJC=96.3P TF=2.12N TR=17N)
*   Motorola 50 Volt  3 Amp  75 MHz  SiNPN  Transistor  04-11-1991
**********
.MODEL T2N2222 NPN (IS=15.2F NF=1 BF=105 VAF=98.5 IKF=.5
+ ISE=8.2P NE=2 BR=4 NR=1 VAR=20 IKR=.225 RE=.373 RB=1.49
+ RC=.149 XTB=1.5 CJE=35.5P CJC=12.2P TF=500P TR=85N)
.MODEL BC238B NPN IS=1.8E-14 ISE=5.0E-14 NF=.9955 NE=1.46 BF=400 BR=35.5
+ IKF=.14 IKR=.03 ISC=1.72E-13 NC=1.27 NR=1.005 RB=.56 RE=.6 RC=.25 VAF=80
+ VAR=12.5 CJE=13E-12 TF=.64E-9 CJC=4E-12 TR=50.72E-9 VJC=.54 MJC=.33
.MODEL BC308B PNP IS=1.149E-14 ISE=5E-14 NF=.9872 NE=1.4 BF=330 BR=13
+ IKF=.1 IKR=.012 ISC=1.43E-14 NC=1.1 NR=.996 RB=.2 RE=.4 RC=.95 VAR=8.15
+ VAF=84.56 CJE=16E-12 TF=.493E-9 CJC=10.5E-12 TR=73.55E-9 MJC=.415 VJC=.565
* 4.7V, 5mA, 300pF, 70Ohm
.model zd4v7 d is=1e-10 rs=70 bv=4.3085 cjo=300p
* 1N4148
.MODEL D1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
********
* LM358 OPERATIONAL AMPLIFIER
* "MACROMODEL" SUBCIRCUIT
*
* CONNECTIONS:
*	1 -	NON-INVERTING INPUT
*	2 -	INVERTING INPUT
*	3 -	POSITIVE POWER SUPPLY
*	4 -	NEGATIVE POWER SUPPLY
*	5 -	OUTPUT
*
.SUBCKT LM358 1 2 3 4 5
*
C1   11 12 3.000E-12
C2    6  7 6.000E-12
CEE  10 99 388.6E-15
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 48.23E6 
+ -50E6 50E6 50E6 -50E6
GA    6  0 11 12 41.47E-6
GCM   0  6 10 99 414.7E-12
IEE   3 10 DC 2.543E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 24.11E3
RC2   4 12 24.11E3
RE1  13 10 3.043E3
RE2  14 10 3.043E3
REE  10 99 78.65E6
RO1   8  5 50
RO2   7 99 25
RP    3  4 37.62E3
VB    9  0 DC 0
VC    3 53 DC 1.800
VE   54  4 DC .88
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
DESD1  1  3 DX
DESD2  2  3 DX
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=32.03)
.ENDS
***********
**********
* LM348 Opamp "MACROMODEL" SUBCIRCUIT
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT LM348T   1 2 3 4 5
*
C1   11 12 9.461E-12
C2    6  7 30.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) 3 0 4 0 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA 6  0 11 12 256.2E-6
GCM   0  6 10 99 4.023E-9
IEE  10  4 DC 15.06E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 4.420E3
RC2   3 12 4.420E3
RE1  13 10 968
RE2  14 10 968
REE  10 99 13.28E6
RO1   8  5 150
RO2   7 99 150
RP    3  4 51.28E3
VB    9  0 DC 0
VC    3 53 DC 3.600
VE   54  4 DC 3.600
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=250)
.ENDS
**********
**********
* UA741 Opamp "MACROMODEL" SUBCIRCUIT
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT UA741T   1 2 3 4 5
*
C1   11 12 4.664E-12
C2    6  7 20.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) 3 0 4 0 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 10.61E6 -10E6 10E6 10E6 -10E6
GA 6  0 11 12 137.7E-6
GCM 0  6 10 99 2.574E-9
IEE  10  4 DC 10.16E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   3 11 7.957E3
RC2   3 12 7.957E3
RE1  13 10 2.740E3
RE2  14 10 2.740E3
REE  10 99 19.69E6
RO1   8  5 150
RO2   7 99 150
RP    3  4 18.11E3
VB    9  0 DC 0
VC 3 53 DC 2.600
VE   54  4 DC 2.600
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=62.50)
.ENDS
**********
**********
*LM741/A/C/E OPERATIONAL AMPLIFIER MACRO-MODEL
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM741N      1   2  99  50  28
*
*Features:
*Improved performance over industry standards
*Plug-in replacement for LM709,LM201,MC1439,748
*Input and output overload protection
*
*INPUT STAGE
*
IOS 2 1 20N
*^Input offset current
R1 1 3 250K
R2 3 2 250K
I1 4 50 100U
R3 5 99 517
R4 6 99 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=2.55 MHz
C4 5 6 60.3614P
*
*COMMON MODE EFFECT
*
I2 99 50 1.6MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 1E-3 1
*Input offset voltage.^
R8 99 49 40K
R9 49 50 40K
*
*OUTPUT VOLTAGE LIMITING
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 1.63
*
*SECOND STAGE
*
EH 99 98 99 49 1
G1 98 9 5 6 2.1E-3
*Fp1=5 Hz
R5 98 9 95.493MEG
C3 98 9 333.33P
*
*POLE STAGE
*
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.3052E-15
*
*COMMON-MODE ZERO STAGE
*
*Fpcm=300 Hz
G4 98 16 3 49 3.1623E-8
L2 98 17 530.5M
R13 17 16 1K
*
*OUTPUT STAGE
*
F6 50 99 POLY(1) V6 450U 1
E1 99 23 99 15 1
R16 24 23 25
D5 26 24 DX
V6 26 22 0.65V
R17 23 25 25
D6 25 27 DX
V7 22 27 0.65V
V5 22 21 0.18V
D4 21 15 DX
V4 20 22 0.18V
D3 15 20 DX
L3 22 28 100P
RL3 22 28 100K
*
*MODELS USED
*
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=625)
*
.ENDS
**********
* TL071 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL071    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
******
* Spice Model
* Item: 2N6715
* Date: 8/12/10
* Revision History: A
* ==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
* ==========================================================
******
*SRC=2N6715;2N6715;BJTs NPN; Si;  50.0V  2.00A  50MHz   Central Semi Central Semi
.MODEL 2N6715  NPN (
+ IS=328.81E-15
+ BF=192.66
+ VAF=100
+ IKF=7.2205
+ ISE=328.81E-15
+ NE=1.5777
+ BR=48.090
+ VAR=100
+ IKR=.44433
+ ISC=272.04E-12
+ NC=1.6969
+ NK=.78896
+ RB=.51504
+ RC=98.729E-3
+ CJE=330.76E-12
+ VJE=.77891
+ MJE=.36425
+ CJC=57.312E-12
+ VJC=.49887
+ MJC=.40654
+ TF=641.04E-12
+ XTF=6.2332
+ VTF=10.091
+ ITF=1.8997
+ TR=10.000E-9)
******
* CA3096N NPN model
* created using Parts release 6.3a on 02/23/97 at 15:21
* Parts is a MicroSim product.
.MODEL CA3096N NPN
+ IS=10.000E-15
+ BF=466.52
+ VAF=100
+ IKF=14.030E-3
+ ISE=74.093E-15
+ NE=1.6606
+ BR=.1001
+ VAR=100
+ IKR=10.010E-3
+ ISC=10.000E-15
*+ NK=.46898
+ RC=10
+ CJE=1.2825E-12
+ MJE=.33333
+ CJC=786.59E-15
+ MJC=.33333
+ TF=490.39E-12
+ XTF=5.3212
+ VTF=28.396
+ ITF=.27408
+ TR=10.000E-9
*$
.model CA3083 NPN 
+ (IS=10.0E-15 XTI=3.000E+00 EG=1.110E+00 VAF=1.00E+02
+ VAR=1.000E+02 BF=112.8E+00 ISE=99.086E-15 NE=1.410E+00
+ IKF=120.900E-03 XTB=0.000E+00 BR=16.0E+00 ISC=116.12E-15
+ NC=1.700E+00 IKR=29.800E-03 RC=10.000E+00 CJC=991.71E-15
+ MJC=0.333E-00 VJC=0.7500E-00 FC=5.000E-01 CJE=1.02E-12
+ MJE=0.333E-00 VJE=0.750E-00 TR=10.000E-09 TF=275.61E-12
+ ITF=0.3750E-00 XTF=91.950E+00 VTF=8.90E+00 PTF=0.000E+00
+ RE=0.0E+00 RB=0.00E+00


* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.001 6 1 0.001 
write blinker.sch.sim V(IN) V(REF) V(OUT)
.endc

.END










